US07625901B2
Step A. 2-Chloro-N-[(1R)-2-hydroxy-1-phenylethyl]butanamide
To a solution of (R)-2-phenylglycinol (2.00 g, 14.6 mmol) and triethylamine (2.03 mL, 14.6 mmol) in CH2Cl2 (100 mL) at 0° C. was slowly added 2-chlorobutyryl chloride (1.66 mL, 14.6 mmol). After 30 min, the reaction mixture was quenched with saturated aqueous NaHCO3 (30 mL) and extracted with CH2Cl2 (2×75 mL). The combined organic extracts were washed with 10% citric acid, then brine, then dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by silica gel chromatography, eluting with a gradient of hexane:EtOAc-70:30 to 0:100, to give the title compound. MS: m/z=242 (M+1).

reactant | (R)-2-phenylglycinol | 14.6 mmol, 2.00 g | C1(=CC=CC=C1)[C@@H](N)CO | C8H11NO
reactant | triethylamine | 14.6 mmol, 2.03 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chlorobutyryl chloride | 14.6 mmol, 1.66 mL | ClC(C(=O)Cl)CC | C4H6Cl2O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-N-[(1R)-2-hydroxy-1-phenylethyl]butanamide | ClC(C(=O)N[C@@H](CO)C1=CC=CC=C1)CC | C12H16ClNO2
